US07834034B2
N-(2-aminophenyl)-5-{[(phenylacetyl)amino]methyl}-1-benzothiophene-2-carboxamide.
A mixture of ethyl 5-(aminomethyl)-1-benzothiophene-2-carboxylate hydrochloride (75 mg, 0.28 mmol), phenylacetyl chloride (0.045 mL, 0.34 mmol) and NEt3 (0.20 mL, 1.4 mmol) in 1 mL of DMF was stirred for 3 h, poured into EtOAc, washed with sat'd NaHCO3, dried (Na2SO4) and concentrated. Next, the residue was dissolved in 2:1:1 THF/MeOH/water (2 mL) and stirred for 3 h in the presence of LiOH (35 mg, 0.83 mmol), then finally poured into EtOAc and washed with 2 N HCl, dried (Na2SO4) and concentrated. The residue was dissolved in DMF (2 mL) and treated with EDC (100 mg, 0.524 mmol), HOBt (50 mg, 0.37 mmol) and 1,2-phenylenediamine (60 mg, 0.56 mmol). After stirring overnight the reaction mixture was poured into EtOAc, washed with sat'd NaHCO3, dried (Na2SO4) and concentrated. Trituration with ether gave the desired product: 1H NMR (600 MHz, DMSO-d6) δ 9.86 (s, 1H), 9.11 (t, J=5.9 Hz, 1H), 8.26 (s, 1H), 7.97 (d, J=8.5 Hz, 1H), 7.88 (d, J=7.0 Hz, 2H), 7.85 (s, 1H), 7.52 (t, J=7.3 Hz, 1H), 7.43-7.47 (m, 3H), 7.14 (d, J=7.0 Hz, 1H), 6.96 (t, J=7.0 Hz, 1H), 6.75 (d, J=7.9 Hz, 1H), 6.57 (t, J=7.3 Hz, 1H), 4.95 (s, 2H), 4.59 (d, J=5.9 Hz, 2H); MS cal'd 416 (MH+), exp 416 (MH+).

reactant | ethyl 5-(aminomethyl)-1-benzothiophene-2-carboxylate hydrochloride | 0.28 mmol, 75 mg | Cl.NCC=1C=CC2=C(C=C(S2)C(=O)OCC)C1
reactant | phenylacetyl chloride | 0.34 mmol, 0.045 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | NEt3 | 1.4 mmol, 0.20 mL | CCN(CC)CC | C6H15N
reactant | LiOH | 0.83 mmol, 35 mg | [Li+].[OH-]
reactant | EDC | 0.524 mmol, 100 mg
reactant | HOBt | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,2-phenylenediamine | 0.56 mmol, 60 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-aminophenyl)-5-{[(phenylacetyl)amino]methyl}-1-benzothiophene-2-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1SC2=C(C1)C=C(C=C2)CNC(CC2=CC=CC=C2)=O | C24H21N3O2S
